US04326055
300 ml of butylene oxide are added to 30.5 g of [1-(1,1,3,3-tetramethyl-5-indanyl)ethyl]-triphenylphosphonium bromide and 8 g of 4-ethoxycarbonylbenzaldehyde and the mixture is then stirred at 65° C. for 12 hours in an inert gas atmosphere. The resulting clear solution is cooled, introduced into ca 500 ml of ice/water and extracted twice with hexane. The organic extract is extracted three times with methanol/water, dried over sodium sulphate and concentreated under reduced pressure. The residue is purified by adsorption on silica gel using hexane/ether (19:1) for the elution. The p-[(E)-2-(1,1,3,3-tetramethyl-5-indanyl)propenyl]-benzoic acid ethyl ester obtained from the eluate melts at 70°-71° C. after recrystallization from ether/hexane.

reactant | [1-(1,1,3,3-tetramethyl-5-indanyl)ethyl]-triphenylphosphonium bromide | 30.5 g | [Br-].CC1(CC(C2=CC(=CC=C12)C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C
reactant | 4-ethoxycarbonylbenzaldehyde | 8 g | C(C)OC(=O)C1=CC=C(C=O)C=C1 | C10H10O3
solvent | butylene oxide | 300 ml | C1CCCO1 | C4H8O
product | p-[(E)-2-(1,1,3,3-tetramethyl-5-indanyl)propenyl]-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)\C=C(/C)\C=1C=C2C(CC(C2=CC1)(C)C)(C)C)=O | C25H30O2
